US05344828
2-(1,2,3,4,10,14b-Hexahydrodibenzo[c,f]pyrazino[1,2-a]azepin-2-yl)acetic acid
2N Aqueous sodium hydroxide solution (5 ml) was added to a solution of 1.68 g of ethyl 2-(1,2,3,4,10,14b-hexahydrodibenzo[c,f]pyrazino[1,2-a]azepin-2-yl)acetate in 17 ml of methanol. The solution was refluxed for 30 min and then concentrated. The residue was dissolved in hot water and the solution was neutralized with 0.5N hydrochloric acid. The precipitates were collected by filtration to give 1.33 g of colorless crystals, which were recrystallized from aqueous ethanol to give colorless needles, mp 162°-163° C.

reactant | sodium hydroxide | 2N, 5 ml | [OH-].[Na+]
reactant | ethyl 2-(1,2,3,4,10,14b-hexahydrodibenzo[c,f]pyrazino[1,2-a]azepin-2-yl)acetate | 1.68 g | C1N(CCN2C1C1=C(CC3=C2C=CC=C3)C=CC=C1)CC(=O)OCC | C21H24N2O2
solvent | methanol | 17 ml | CO | CH4O
product | 2-(1,2,3,4,10,14b-Hexahydrodibenzo[c,f]pyrazino[1,2-a]azepin-2-yl)acetic acid | 1.33 g | C1N(CCN2C1C1=C(CC3=C2C=CC=C3)C=CC=C1)CC(=O)O | C19H20N2O2
